US07737166B2
7-[(3S)-3-Amino-3-methylpyrrolidin-1-yl]-4-cyano-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#160)
A dimethyl sulfoxide (1 ml) solution of tert-butyl [(3S)-3-methylpyrrolidin-3-yl]carbamate (I-345) (300 mg, 1.50 mmol) and triethylamine (244 μl, 1.75 mmol) was added to a dimethyl sulfoxide (6 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (404 mg, 1.25 mmol) stirred in an oil bath at 150° C., followed by stirring in an oil bath at 150° C. for 30 minutes. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, and washed with aqueous 10% citric acid solution, water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=1:1→1:2, v/v). The obtained yellow foamy substance was dissolved in dichloromethane (5 ml), and with cooling with ice, trifluoroacetic acid (10 ml) was added, followed by stirring at room temperature for 5 hours. The reaction liquid was concentrated under reduced pressure, then an aqueous saturated sodium hydrogencarbonate solution and water were added, followed by extraction with chloroform. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, the residue obtained by concentration was purified by preparative TLC (eluent, chloroform:methanol=10:1, v/v), and the obtained eluate was purified in slurry with isopropyl ether to obtain the entitled compound (210 mg, 41%) as a pale yellow solid.

reactant | tert-butyl [(3S)-3-methylpyrrolidin-3-yl]carbamate | 1.50 mmol, 300 mg | C[C@]1(CNCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 1.75 mmol, 244 μl | C(C)N(CC)CC | C6H15N
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 1.25 mmol, 404 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-Amino-3-methylpyrrolidin-1-yl]-4-cyano-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 210 mg, 41% | N[C@@]1(CN(CC1)C1=C(C(=C(C=2N=C(OC21)C(=O)N(C)C)C#N)C)C2=CC=CC=C2)C | C23H25N5O2
